US05136090
To 1 ml of a DMF solution containing 55.5 mg (0.1438 mmol) of 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl and 21.82 μl (0.1798 mmol) of benzyl iodide, there was added 27.43 μl (0.1798 mmol) of DBU and the resulting mixture was agitated for 4.5 hours at room temperature. After the solvent in the reaction mixture was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, water and aqueous sodium chloride solution in this sequence and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 5 g of WAKO-gel C-200, eluent: toluene and toluene/ethyl acetate of 50/1) to obtain 52.8 mg (0.111 mmol, 77%) of 2-benzyloxy-2'-hydroxy-5,5'-bis (2-ethyoxycarbonylethyl) biphenyl as an oily product. 1H-NMR (CDCl3) δ (ppm): 1.23 (6H, t, 2CH3), 2.5-2.8 (4H, m, 2CH2), 2.8-3.1 (4H, m, 2CH 2), 4.13 (4H, q, 2CH2), 5.06 (2H, s, CH2), 6.27 (1H, s, OH), 6.8-7.4 (11H, m, arom-H) MS (FAB): 475 (M-H)-

reactant | 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.1438 mmol, 55.5 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | benzyl iodide | 0.1798 mmol, 21.82 μl | C(C1=CC=CC=C1)I | C7H7I
reactant | DBU | 0.1798 mmol, 27.43 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-benzyloxy-2'-hydroxy-5,5'-bis (2-ethyoxycarbonylethyl) biphenyl | 0.111 mmol, 52.8 mg, 77% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C29H32O6
